US08541588B2
N-(5-Chloro-1,3-thiazol-2-yl)-3-cyano-4-(4-fluoro-2-iodophenoxy)benzenesulfonamide
To a solution of N-(5-Chloro-1,3-thiazol-2-yl)-3-cyano-4-fluorobenzenesulfonamide (Preparation 52, 100 mg, 0.32 mmol) and potassium carbonate (109 mg, 0.8 mmol) in dimethylformamide (3 ml) was added 4-fluoro-2-iodophenol (Preparation 218, 0.32 mmol) and the reaction heated at 80° C. for 24 hours. The solution was added dropwise into rapidly stirring hydrochloric acid (2M aqueous solution). The fine dark precipitate was filtered and dried in vacuo to afford the title product as a brown solid, 100 mg, 59% yield.

reactant | N-(5-Chloro-1,3-thiazol-2-yl)-3-cyano-4-fluorobenzenesulfonamide | 0.32 mmol, 100 mg | ClC1=CN=C(S1)NS(=O)(=O)C1=CC(=C(C=C1)F)C#N | C10H5ClFN3O2S2
reactant | potassium carbonate | 0.8 mmol, 109 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluoro-2-iodophenol | 0.32 mmol | FC1=CC(=C(C=C1)O)I | C6H4FIO
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | N-(5-Chloro-1,3-thiazol-2-yl)-3-cyano-4-(4-fluoro-2-iodophenoxy)benzenesulfonamide | 59% yield | ClC1=CN=C(S1)NS(=O)(=O)C1=CC(=C(C=C1)OC1=C(C=C(C=C1)F)I)C#N | C16H8ClFIN3O3S2
